US07612067B2
C. 4-(4-Chloro-thiazol-2-yl)-morpholine.
In a 75 mL dry pressure vessel, 2,4-dichloro-thiazole (500 mg, 3.2 mmol) and morpholine (560 μL, 6.4 mmol) are dissolved in dry THF (2.0 mL). Cs2CO3 (1.56 g, 4.8 mmol) is added, and the reaction vessel is sealed. The reaction mixture is heated to 110° C. overnight. Solvent is removed via reduced pressure, and the crude reaction mixture is purified via silica gel chromatography to give the title compound (597 mg, 2.92 mmol, 91%). 1H-NMR (CDCl3), δ 3.45 (m, 4H), 3.79 (m, 4H), 6.31 (s, 1H) ppm. ES-MS (m/z): calcd for C7H9ClN2OS (M+H)+: 204.68; found: 205.2.

reactant | 2,4-dichloro-thiazole | 3.2 mmol, 500 mg | ClC=1SC=C(N1)Cl | C3HCl2NS
reactant | morpholine | 6.4 mmol, 560 μL | N1CCOCC1 | C4H9NO
reactant | Cs2CO3 | 4.8 mmol, 1.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-(4-Chloro-thiazol-2-yl)-morpholine | 2.92 mmol, 597 mg, 91% | ClC=1N=C(SC1)N1CCOCC1 | C7H9ClN2OS
